US09278938B2
To THF (4.8 mL) was added 6-[(1S)-1,3-dihydroxy-1-(1-tosyl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide (479.6 mg, 1.0 mmol). The reaction mixture was cooled to 10° C., and ethyldiisopropylamine (505.9 mg, 4.0 mmol) and methanesulfonyl chloride (458.8 mg, 4.0 mmol) were successively added thereto, and the mixture was stirred at room temperature for 2 hr. To the reaction mixture was added a solution of sodium carbonate (530.0 mg, 5.0 mmol) in water (2 mL), and the mixture was warmed to 57° C., and stirred for 5 hr. The separated organic layer was concentrated under reduced pressure. Methanol (4 mL) and activated carbon (40 mg) were added thereto. The reaction mixture was stirred at the same temperature for 20 min, and the activated carbon was filtered off, and washed with methanol (2 mL). The filtrate and washing were concentrated under reduced pressure. Methanol (1 mL), ethyl acetate (5 mL), and THF (10 mL) were added to the residue, and the mixture was washed twice with 10% sodium chloride-containing 5 w/v % aqueous sodium bicarbonate solution (15 mL). The separated organic layer was concentrated under reduced pressure to give 6-((7S)-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide (135.4 mg, 0.44 mmol). yield 44%.

reactant | 6-[(1S)-1,3-dihydroxy-1-(1-tosyl-1H-imidazol-4-yl)propyl]-N-methyl-2-naphthamide | 1.0 mmol, 479.6 mg | O[C@](CCO)(C=1N=CN(C1)S(=O)(=O)C1=CC=C(C)C=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C25H25N3O5S
reactant | ethyldiisopropylamine | 4.0 mmol, 505.9 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 4.0 mmol, 458.8 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | 5.0 mmol, 530.0 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 mL | O | H2O
solvent | THF | 4.8 mL | C1CCOC1 | C4H8O
product | 6-((7S)-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide | 0.44 mmol, 135.4 mg, yield 44% | OC1=C2N(C=N1)CC[C@H]2C=2C=C1C=CC(=CC1=CC2)C(=O)NC | C18H17N3O2
